US07776857B2
Step 1: 1-Methyl-4-(trimethylstannyl)pyridin-2(1H)-one
4-Iodo-1-methylpyridin-2(1H)-one (110 mg, 468 μmol), 1,1,1,2,2,2-hexamethyldistannane (126 μl, 608 μmol), and the Pd catalyst were added to toluene and heated to 100° C. for 2 h. The mixture was concentrated and purified by silica gel chromatography using 0 to 30% MeOH in ethyl acetate.

reactant | 4-Iodo-1-methylpyridin-2(1H)-one | 468 μmol, 110 mg | IC1=CC(N(C=C1)C)=O | C6H6INO
reactant | 1,1,1,2,2,2-hexamethyldistannane | 608 μmol, 126 μl | C[Sn]([Sn](C)(C)C)(C)C
catalyst | Pd | [Pd] | Pd
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-Methyl-4-(trimethylstannyl)pyridin-2(1H)-one | CN1C(C=C(C=C1)[Sn](C)(C)C)=O | InChI=1S/C6H6NO.3CH3.Sn/c1-7-5-3-2-4-6(7)8;;;;/h3-5H,1H3;3*1H3;
